US09079853B2
1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate
To an oven dried flask cooled under argon equipped with a stir bar was added 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate (0.05 grams, 0.17 mmol, 0.5 M in toluene). While stirring at room temperature LiHMDS (0.3 mL, 0.3 mmol, 1.0 M, purchased from Fisher Scientific) was added. After approximately ten minutes a solution of 3,4,5 trimethoxybenzyl chloride (0.0553 grams, 0.26 mmol, purchased from Aldrich, 0.5 M in anhydrous DMF) was added. The reaction continued to stir overnight. The next day the reaction was acidified with 0.1M HCl, diluted with ethyl acetate and the two layers were separated. The aqueous layer was salted out and washed twice more with ethyl acetate. The combined organic solution was dried with sodium sulfate, filtered and concentrated. Purification was done on a Teledyne ISCO with silica gel using a hexanes/ethyl acetate gradient. This was followed by a subsequent reverse phase purification using Teledyne ISCO with a C18 column and a water with 0.1% formic acid, acetonitrile gradient. Yield (20%) 1H-NMR δ 8.05 (d, 2H), 7.57 (dd, 1H), 7.43 (m, 2H), 7.08 (d, 1H), 6.97 (s, 1H), 6.62 (d, 1H), 6.17 (s, 2H), 3.78 (s, 3H), 3.76 (m, 1H), 3.68 (s, 6H), 3.53 (m, 1H), 3.29 (d, 1H), 3.24 (d, 1H), 2.28 (s, 3H), 1.00 (t, 3H). Calculated mass for C28H29NO6, 475.20. Observed 498.2 (M+Na).

reactant | 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate | 0.17 mmol, 0.5 M, 0.05 grams | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CC)=O | C18H17NO3
reactant | LiHMDS | 0.3 mmol, 1.0 M, 0.3 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 3,4,5 trimethoxybenzyl chloride | 0.26 mmol, 0.5 M, 0.0553 grams | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
reactant | HCl | 0.1M | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CC)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C28H29NO6
